US06908926B1
5-(5-Cyclohexylpentanoyl)-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine
To a solution of 5-cyclohexylpentanoic acid (0.94 g, 5.10 mmol) in DCM (4 mL) carbonyldiimidazole (0.83 g, 5.12 mmol) was added. The resulting mixture was stirred at room temperature for 16 h and then added to a solution of 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine (5.10 mmol) in DCM (4 mL). After 2.5 h DCM (50 mL) was added and the mixture was washed with water (3×15 mL). The organic layer was then dried (MgSO4) and concentrated. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol 9:1) whereby 0.35 g (24%) of the title amide was obtained as an oil.

reactant | 5-cyclohexylpentanoic acid | 5.10 mmol, 0.94 g | C1(CCCCC1)CCCCC(=O)O | C11H20O2
reactant | 4,5,6,7-tetrahydroimidazo[4,5-c]pyridine | 5.10 mmol | N1C=NC=2CNCCC21 | C6H9N3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5.12 mmol, 4 mL, 0.83 g | C(Cl)Cl | CH2Cl2
product | 5-(5-Cyclohexylpentanoyl)-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine | C1(CCCCC1)CCCCC(=O)N1CC2=C(CC1)NC=N2 | C17H27N3O
